US08071581B2
Step 1: 6-Bromo-1H-pyrrolo[3,2-b]pyridine
To a solution of 5-bromo-2-methyl-3-nitro-pyridine (1.58 g, 7.28 mmol) [prepared according to WO 2006/103449] in dimethylformamide (10 mL) was added dimethylformamide dimethyl acetal (1.65 mL, 12.37 mmol). The reaction mixture was stirred at 100° C. for 1 h, then cooled to room temperature and concentrated in vacuo. The residue was dissolved in glacial acetic acid (25 mL) and iron powder (3.25 g, 58.24 mmol) was added. The reaction mixture was stirred at 100° C. for 21 h, then it was cooled to room temperature. Methanol (25 mL) was added and the suspension was filtered and washed with Methanol. The filtrate was concentrated in vacuo. The residue was partitioned between saturated aqueous sodium bicarbonate and ethyl acetate. The organic layer was separated, dried over sodium sulfate, filtered, and adsorbed on silica gel. Purification on silica gel by flash chromatography using a gradient of 0-70% ethyl acetate/hexane provided 869 mg of the title compound as an ivory solid (60% yield): 1H NMR (DMSO-d6): δ 6.77 (s, 1H), 7.68 (s, 1H), 8.00 (s, 1H), 8.36 (s, 1H), 11.46 (broad s, 1H); MS (m/z) 197, 199 [M+H+]+.

reactant | 5-bromo-2-methyl-3-nitro-pyridine | 7.28 mmol, 1.58 g | BrC=1C=C(C(=NC1)C)[N+](=O)[O-] | C6H5BrN2O2
reactant | dimethylformamide dimethyl acetal | 12.37 mmol, 1.65 mL | COC(N(C)C)OC | C5H13NO2
reactant | Methanol | 25 mL | CO | CH4O
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | iron | 58.24 mmol, 3.25 g | [Fe] | Fe
product | 6-Bromo-1H-pyrrolo[3,2-b]pyridine | 869 mg, 60% yield | BrC=1C=C2C(=NC1)C=CN2 | C7H5BrN2
